US08664214B2
2-Butyl-5-hydroxyisoindolin-1-one (366 mg, 1.78 mmol), K2CO3 (493 mg, 3.57 mmol) and KI (296 mg, 1.78 mmol) were added to a solution of (2,6-dimethyl-4-phenylpyridin-3-yl)methyl methanesulfonate (520 mg, 1.78 mmol) in DMF (18 mL). After stirring overnight at room temperature (rt), water was added and the pH was adjusted to 13-14 using aqueous NaOH (1 M). The reaction mixture was extracted with EtOAc, the combined organic layers were washed with water, dried with MgSO4 and the solvent was removed in vacuo. Purification by flash chromatography (DCM/MeOH, gradient 1-5% MeOH) provided 2-butyl-5-((2,6-dimethyl-4-phenylpyridin-3-yl)methoxy)isoindolin-1-one (140 mg, 19%). ESI-MS [M+H]+=401.2.

reactant | 2-Butyl-5-hydroxyisoindolin-1-one | 1.78 mmol, 366 mg | C(CCC)N1C(C2=CC=C(C=C2C1)O)=O | C12H15NO2
reactant | K2CO3 | 3.57 mmol, 493 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | (2,6-dimethyl-4-phenylpyridin-3-yl)methyl methanesulfonate | 1.78 mmol, 520 mg | CS(=O)(=O)OCC=1C(=NC(=CC1C1=CC=CC=C1)C)C | C15H17NO3S
reactant | NaOH | 1 M | [OH-].[Na+]
solvent | DMF | 18 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-butyl-5-((2,6-dimethyl-4-phenylpyridin-3-yl)methoxy)isoindolin-1-one | 140 mg, 19% | C(CCC)N1C(C2=CC=C(C=C2C1)OCC=1C(=NC(=CC1C1=CC=CC=C1)C)C)=O | C26H28N2O2
